US05500453
An aqueous solution of 11.27 g of lithium butyltriphenylborate in 200 ml of water was added to an aqueous solution of 8.21 g of dimethyl-p-chlorobenzylsulfonium chloride in 200 ml of water, and the resultant mixture was stirred at room temperature for 30 minutes. Then, the reaction mixture was filtered, and the resultant crystal was washed with water and dried to give 16.67 g of dimethyl-p-chlorobenzylsulfonium-butyltriphenylborate as a white crystal.

reactant | lithium butyltriphenylborate | 11.27 g | C(CCC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Li+]
reactant | dimethyl-p-chlorobenzylsulfonium chloride | 8.21 g | [Cl-].C[S+](CC1=CC=C(C=C1)Cl)C
solvent | water | 200 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | dimethyl-p-chlorobenzylsulfonium butyltriphenylborate | 16.67 g | C[S+](CC1=CC=C(C=C1)Cl)C.C(CCC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H24B.C9H12ClS/c1-2-3-19-23(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22;1-11(2)7-8-3-5-9(10)6-4-8/h4-18H,2-3,19H2,1H3;3-6H,7H2,1-2H3/q-1;+1
